US05112867
N-(Cyclooctyl)-2-[bis(4-methoxymethoxyphenyl)methyl]benzylamine (Compound 77)
In 50 ml of ethanol was dissolved 0.69 g of cyclooctylamine. To the solution was added 1.96 g of 2-[bis(4-methoxymethoxyphenyl)methyl]benzaldehyde obtained by Reference Example 7, and the mixture was stirred overnight. Then, 0.85 g of sodium borohydride was added thereto, and the reaction mixture was stirred for 2 hours. Thereafter, the solvent was evaporated under reduced pressure, and water was added to the residue. The aqueous mixture was extracted with chloroform, and the organic layer was separated. The aqueous layer was extracted with chloroform, and the organic layer was combined and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography to afford 2.25 g of the desired product (Compound 77) as an oily matter.

reactant | cyclooctylamine | 0.69 g | C1(CCCCCCC1)N | C8H17N
reactant | 2-[bis(4-methoxymethoxyphenyl)methyl]benzaldehyde | 1.96 g | COCOC1=CC=C(C=C1)C(C1=C(C=O)C=CC=C1)C1=CC=C(C=C1)OCOC | C24H24O5
reactant | sodium borohydride | 0.85 g | [BH4-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-(Cyclooctyl)-2-[bis(4-methoxymethoxyphenyl)methyl]benzylamine | 2.25 g | C1(CCCCCCC1)NCC1=C(C=CC=C1)C(C1=CC=C(C=C1)OCOC)C1=CC=C(C=C1)OCOC | C32H41NO4
